US08877975B2
5.1.2. Preparation of dimethyl 4-cyano-4-(naphthalen-2-yl)heptanedioate
A 3-L, three-necked flask equipped with a temperature probe, reflux condenser, addition funnel and overhead stirrer was charged with 2-naphthylacetonitrile (300 g, 1.79 mol), methylacrylate (600 mL, 6.65 mol) and tent-butanol (900 mL). A solution of tetrabutylammonium hydroxide (1 M; 75 mL, 75 mmol) in methanol was added slowly through an addition funnel over a period of 30 min (Note: Highly exothermic). The resulting clear solution was stirred at 70° C. for 2 h and assayed by TLC (3:7 EtOAc/Heptane; stained using Hanessian solution) and GC. The reaction mixture was cooled to room temperature before being concentrated under reduced pressure. The residue was partitioned between 2 M HCl (1 L) and MTBE (4 L). The phases were separated and the aqueous phase was extracted with MTBE (500 mL). The combined organic phases were washed with brine (1 L), dried over MgSO4, filtered and concentrated under reduced pressure at 40-45° C. to give a residue which was passed through a bed of silica (1:4 EtOAc/Heptane) to yield the title compound [569 g, 93%, 100% (AUC) by GC] as an off-white solid. 1H NMR (CDCl3, 300 MHz): δ 7.75 (2 d merged, 2H), 7.45 (dd, 1H), 3.5 (s, 6H), 2.4-2.2 (m, 6H), 2.15-1.98 (m, 2H).

reactant | 2-naphthylacetonitrile | 1.79 mol, 300 g | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | methylacrylate | 6.65 mol, 600 mL | COC(C=C)=O | C4H6O2
reactant | butanol | 900 mL | C(CCC)O | C4H10O
reactant | EtOAc Heptane | CCOC(=O)C.CCCCCCC
solvent | methanol | CO | CH4O
catalyst | tetrabutylammonium hydroxide | 75 mmol, 1 M, 75 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | dimethyl 4-cyano-4-(naphthalen-2-yl)heptanedioate | 569 g | C(#N)C(CCC(=O)OC)(CCC(=O)OC)C1=CC2=CC=CC=C2C=C1 | C20H21NO4
